US07129239B2
Preparation of 1-[9-(4-Chloro-phenyl)-8-(2,4-dichloro-phenyl)-9H-purin-6-yl]-piperidine-4-carboxylic acid Ethyl Ester (7A-1)
6-chloro-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine I-(1A-1)d (30 mg, 0.07 mmol), piperidine-4-carboxylic acid ethyl ester (34 mg, 0.22 mmol), and triethylamine (20 μl, 0.29 mmol) were combined in ethanol (1 ml) and heated at 70° C. for 2 hours. The reaction mixture was concentrated under a stream of N2 and then extracted into ethyl acetate from saturated NaHCO3 solution. The organic layers were combined, dried (Na2SO4), filtered, evaporated to dryness, and then purified by preparative TLC using 4% methanol in methylene chloride as eluant to obtain title compound 7A-1. A solution of the material in methylene chloride was treated with excess 1 N HCl in diethyl ether, stirred and evaporated to dryness to afford the hydrochloride salt of compound 7A-1 (24 mg, 65%) as a solid: +ESI MS (M+1) 530.1; 1H NMR (400 MHz, CD3OD) δ 8.35 (s, 2H), 7.60 (d, J=8.3 Hz, 1H), 7.56 (d, J=2.1 Hz, 1H), 7.50–7.45 (m, 3H), 7.34 (d, J=8.7 Hz, 2H), 4.15 (q, J=7.1 Hz, 2H), 3.68 (v br s, 2H), 2.85 (m, 1H), 2.16 (m, 2H), 1.89 (m, 2H), 1.25 (t, J=7.1 Hz, 3H).

reactant | 6-chloro-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine | 0.07 mmol, 30 mg | ClC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C17H8Cl4N4
reactant | piperidine-4-carboxylic acid ethyl ester | 0.22 mmol, 34 mg | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | triethylamine | 0.29 mmol, 20 μl | C(C)N(CC)CC | C6H15N
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 1-[9-(4-Chloro-phenyl)-8-(2,4-dichloro-phenyl)-9H-purin-6-yl]-piperidine-4-carboxylic acid Ethyl Ester | C(C)OC(=O)C1CCN(CC1)C1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C25H22Cl3N5O2
